US09085540B2
To a mixture of 6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(1,2,3,6-tetrahydropyridin-4-yl)pyrazin-2-carboxamide (40 mg), diisopropylethylamine (75 μL), and chloroform (4 mL) was added under ice-cooling acryloyl chloride (25 μL), followed by stirring at room temperature overnight. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, followed by extraction with chloroform. The organic phase was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1). To an ethyl acetate solution of the obtained oily substance was added 4 M hydrogen chloride ethyl acetate solution, followed by stirring for 5 hours. The solvent was evaporated under reduced pressure and the obtained solid was washed with diisopropyl ether to obtain 5-(1-acryloyl-1,2,3,6-tetrahydropyridin-4-yl)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazin-2-carboxamide monohydrochloride (21 mg) as an orange solid.

reactant | 6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(1,2,3,6-tetrahydropyridin-4-yl)pyrazin-2-carboxamide | 40 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C)C=1CCNCC1 | C23H31N7O
reactant | diisopropylethylamine | 75 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acryloyl chloride | 25 μL | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(1-acryloyl-1,2,3,6-tetrahydropyridin-4-yl)-6-ethyl-3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazin-2-carboxamide monohydrochloride | 21 mg | Cl.C(C=C)(=O)N1CCC(=CC1)C=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCN(CC1)C | InChI=1S/C26H33N7O2.ClH/c1-4-21-23(18-10-12-33(13-11-18)22(34)5-2)30-26(24(29-21)25(27)35)28-19-6-8-20(9-7-19)32-16-14-31(3)15-17-32;/h5-10H,2,4,11-17H2,1,3H3,(H2,27,35)(H,28,30);1H
